US06114390
a) (R)-N-[[4-(Aminocarbonylaminomethyl)phenyl]methyl]-N5 -[amino(nitroimino)methyl]-N2 -[bis-(4-methoxyphenyl)acetyl]-ornithinamide
Prepared analogously to Example 14c) from bis-(4-methoxyphenyl)-acetic acid, (R)-N-[[4-(aminocarbonylaminomethyl)phenyl]methyl]-N5 -[amino(nitroimino)methyl]-ornithinamidehydrochloride and TBTU in a yield of 48% of theory. Colourless crystals, Mp. 149-151° C. (Acetonitrile).

reactant | bis-(4-methoxyphenyl)-acetic acid | COC1=CC=C(C=C1)C(C(=O)O)C1=CC=C(C=C1)OC | C16H16O4
reactant | (R)-N-[[4-(aminocarbonylaminomethyl)phenyl]methyl]-N5 -[amino(nitroimino)methyl]-ornithinamidehydrochloride | Cl.NC(=O)NCC1=CC=C(C=C1)CNC([C@H](N)CCCNC(=N[N+](=O)[O-])N)=O
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
solvent | Acetonitrile | C(C)#N | C2H3N
product | (R)-N-[[4-(Aminocarbonylaminomethyl)phenyl]methyl]-N5 -[amino(nitroimino)methyl]-N2 -[bis-(4-methoxyphenyl)acetyl]-ornithinamide | yield of 48% | NC(=O)NCC1=CC=C(C=C1)CNC([C@H](NC(C(C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC)=O)CCCNC(=N[N+](=O)[O-])N)=O | C31H38N8O7
